US06462038B1
A suspension of (+)-[I-(2-fluoro-4-nitrophenyl)-2-piperidinyl]-methanol (0.586 g, 2.30 mmol) and sodium hydride (60% mineral oil suspension, 0.101 g, 2.54 mmol) in 10 mL THF was heated at reflux for 16 h. The mixture was neutralized with phosphate buffer (pH 7), and the resultant solution was extracted twice with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. Flash chromatography (7:3 hexanes:EtOAc) afforded 0.410 g (76%) of (±)-3-nitro-6,6a,7,8,9, 10-hexahydropyrido[2,1-c][1,4]benzoxazine, a yellow-orange solid. Data for (±)-3-nitro-6,6a,7,8,9,10-hexahydropyrido[2,1-c][1,4]benzoxazine: Rf O. 71 (2:3, EtOAc:hexanes) 1H NMR (400 MHz, CDCl3) δ 7.78 (dd, 1H, J=9.3, 2.9), 7.64 (d, 1H, J=2.9), 6.75 (d, 1H, J=9.3), 4.23 (dd, 1H, J=10.7, 2.9), 3.96 (dd, 1H, J=10.7, 7.8), 3.93 (m, 1H), 3,22-3.17 (m, 1H), 2.78 (td, 1H, J=12.8, 3.0), 1.95-1.92 (m, 1H), 1.88-1.84 (m, 1H), 1.75-1.71 (m, 1H), 1.66-1.60 (m, 1H), 1.58-1.48 (m, 1H), 1.35-1.27 (m, 1H).

reactant | (+)-[I-(2-fluoro-4-nitrophenyl)-2-piperidinyl]-methanol | 2.30 mmol, 0.586 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(CCCC1)CO | C12H15FN2O3
reactant | sodium hydride | 2.54 mmol, 0.101 g | [H-].[Na+]
reactant | phosphate | pH 7 | P(=O)([O-])([O-])[O-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (±)-3-nitro-6,6a,7,8,9, 10-hexahydropyrido[2,1-c][1,4]benzoxazine | 0.410 g, 76% | [N+](=O)([O-])C1=CC2=C(N3C(CO2)CCCC3)C=C1 | C12H14N2O3
